US05190934
A solution of 38.3 g of ethyl P-cyclohexylmethyl-P-diethoxymethylphosphinate in 27 ml of water is treated with 27 ml of 37% aqueous hydrochloric acid and the mixture heated to reflux for 5 hours. The mixture is cooled to room temperature and washed with ether/hexane 1:1. Three phases are obtained. The lower 2 phases are removed and the water is removed under reduced pressure to afford cyclohexylmethylphosphonous acid as a white solid; 1H-NMR (CDCl3): δ (ppm)=7.40 (1H, broad singlet, exchanges D2O, P--OH), 7.12 (1H, d, J=526 Hz, H--P), 2.10-1.75 (7H, m, 3×CH2 +CH), 1.48-1.05 (6H, m, 3×CH3).

reactant | ethyl P-cyclohexylmethyl-P-diethoxymethylphosphinate | 38.3 g | C1(CCCCC1)CP(OCC)(=O)C(OCC)OCC | C14H29O4P
reactant | hydrochloric acid | 27 ml | Cl | ClH
solvent | water | 27 ml | O | H2O
product | cyclohexylmethylphosphonous acid | C1(CCCCC1)CP(O)O | C7H15O2P
